US05114940
1,10-Decanediol (ex. Lancaster) was reacted with 2-chloroquinoline, by analogy with compound 33, step (i), to give 10-(2-quinolinyloxy)decan-1-ol. The latter was subjected to Swern oxidation (cf. example XIV) and the aldehyde reacted with ethyl fluoroacetate and diethyl oxalate to give (2Z) ethyl 2-fluoro-12-(2-quinoliny-loxy)dodec-2-enoate. The latter was converted to the title compound by analogy with compound 33, step (iv).

reactant | 1,10-Decanediol | C(CCCCCCCCCO)O | C10H22O2
reactant | 2-chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
product | 10-(2-quinolinyloxy)decan-1-ol | N1=C(C=CC2=CC=CC=C12)OCCCCCCCCCCO | C19H27NO2
